US04822793
7-Methanesulphonamido-3-(5-methanesulphonamidobenzofur-2-yl-methyl)-1,2,4,5-tetrahydro-3H-3-benzazepine
Methanesulphonyl cloride (0.28 ml) was added dropwise to a solution of 7-amino-3-(5-aminobenzofur-2-ylmethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine (0.56 g) in pyridine (40 ml) cooled to 0° and the mixture was then stirred at room temperature for 18 hours. The solvent was evaporated in vacuo and the residue taken up in methylene chloride, washed three times with aqueous sodium bicarbonate and three times with brine. The organic layer was dried (Na2SO4), filtered and evaporated in vacuo to give an oil which was purified by column chromatography on silica eluting with methylene chloride containing methanol (0% up to 4%). The product-containing fractions were combined and evaporated to give the title compound as a foam, yield 0.56 g.

reactant | Methanesulphonyl cloride | 0.28 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 7-amino-3-(5-aminobenzofur-2-ylmethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine | 0.56 g | NC1=CC2=C(CCN(CC2)CC=2OC3=C(C2)C=C(C=C3)N)C=C1 | C19H21N3O
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 7-Methanesulphonamido-3-(5-methanesulphonamidobenzofur-2-yl-methyl)-1,2,4,5-tetrahydro-3H-3-benzazepine | CS(=O)(=O)NC1=CC2=C(CCN(CC2)CC=2OC3=C(C2)C=C(C=C3)NS(=O)(=O)C)C=C1 | C21H25N3O5S2
